US08735384B2
Thionyl chloride (0.570 mL, 7.81 mmol) was added to a solution of 2-bromo-3-methylbenzoic acid (1.60 g, 7.44 mmol) and DMF (0.058 mL, 0.744 mmol) in DCM (50 mL) at 0° C. The reaction mixture was allowed to warm to RT and stirred for 1 hr and then cooled to 0° C. before ammonia 2N i-PrOH (18.60 mL, 37.2 mmol) was added. The resulting cloudy solution was stirred for 30 min. The reaction mixture was diluted with water and extracted with EtOAc. The combined organic extracts were washed with 10% sodium carbonate, saturated ammonium chloride, saturated sodium chloride, and dried over sodium sulfate. The solution was filtered and concentrated in vacuo to give the crude material as a white solid. The solid was dissolved in EtOH (30 mL) and divided evenly into 2×20 mL microwave vials. 1-Chloro-2-propanone (0.574 mL, 7.44 mmol) was added into each vial and the reaction mixture was stirred and heated in a microwave reactor at 150° C. for 2 h. The reactions were concentrated and the crude material was purified by silica gel chromatography to provide 2-(2-bromo-3-methylphenyl)-4-methyloxazole.

reactant | Thionyl chloride | 7.81 mmol, 0.570 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-bromo-3-methylbenzoic acid | 7.44 mmol, 1.60 g | BrC1=C(C(=O)O)C=CC=C1C | C8H7BrO2
reactant | DMF | 0.744 mmol, 0.058 mL | CN(C)C=O | C3H7NO
reactant | ammonia | 37.2 mmol, 2N, 18.60 mL | N | H3N
reactant | 1-Chloro-2-propanone | 7.44 mmol, 0.574 mL | ClCC(C)=O | C3H5ClO
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | EtOH | 30 mL | CCO | C2H6O
product | 2-(2-bromo-3-methylphenyl)-4-methyloxazole | BrC1=C(C=CC=C1C)C=1OC=C(N1)C | C11H10BrNO
